US08138175B2
B) 4-(3,4-Dichloro-phenyl)-1-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-piperazin-2-one
Trifluoroacetic acid (1.51 g, 13.3 mmol) was added to a solution of N-{3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-acetamide (142 mg, 0.24 mmol) in CH2Cl2 (1 mL) at RT, then after 3 h triethylsilane (140 mg, 1.21 mmol) was added. The solution was heated at 60° C. over 72 h, then partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (IST Isolute® Flash NH2; EtOAc/MeOH 19:1) afforded the title compound (17 mg, 17%). Yellow gum, MS: 412.2 (M+H)+.

reactant | Trifluoroacetic acid | 13.3 mmol, 1.51 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-{3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-acetamide | 0.24 mmol, 142 mg | C(C)(C)(C)[Si](O[C@H]1C2(CC2)CCN(C1)CCCN(C(CNC1=CC(=C(C=C1)Cl)Cl)=O)CC(OC)OC)(C)C | C28H47Cl2N3O4Si
reactant | triethylsilane | 1.21 mmol, 140 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Dichloro-phenyl)-1-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-piperazin-2-one | 17 mg, 17% | ClC=1C=C(C=CC1Cl)N1CC(N(CC1)CCCN1C[C@H](C2(CC2)CC1)O)=O | C20H27Cl2N3O2
